US04826866
5-Methyl-3-[(1-methylethyl)amino]-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride [1:1]
A stirred slurry of 10.5 g (0.079 mole) of 4-(2-propanyl)-3-thiosemicarbazide in 100 mL of tetrahydrofuran under nitrogen atmosphere was treated with 13 g (0.079 mole) of ethyl 2-chloroacetoacetate. After 30 minutes the reaction mixture became suddenly exothermic, turning green-yellow and amorphous sulfur separated. The reaction mixture was stirred at ambient temperature for 2 hr, diluted with water, made acidic with 3N hydrochloric acid and filtered to remove the insoluble sulfur. The filtrate was adjusted to pH 8 with sodium carbonate and extracted with 3×50 mL of methylene chloride. The extracts were combined, washed with water, dried over magnesium sulfate and the filtrate concentrated in vacuo. The oily residue in acetone was treated with ethereal hydrogen chloride and diluted with an equal volume of isopropyl ether to give the crude product. Recrystallization from acetone gave 6.6 g of large beige crystals, mp 158°-159° C., as the hydrochloride salt.

reactant | 4-(2-propanyl)-3-thiosemicarbazide | 0.079 mole, 10.5 g | CC(C)NC(NN)=S | C4H11N3S
reactant | ethyl 2-chloroacetoacetate | 0.079 mole, 13 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 5-Methyl-3-[(1-methylethyl)amino]-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride | 6.6 g | Cl.CC1=C(C(=NN1)NC(C)C)C(=O)OCC | InChI=1S/C10H17N3O2.ClH/c1-5-15-10(14)8-7(4)12-13-9(8)11-6(2)3;/h6H,5H2,1-4H3,(H2,11,12,13);1H
